US06281246B1
In 2 lit. round bottom flask, in 450 ml of water, (±) sotalol hydrochloride (200 g) was added under stirring at room temperature. Under stirring, a solution of 500 g of potassium carbonate in 300 ml of water was added. The stirring was continued for 48 hours. Solid material was separated to give 107 g of (±) sotalol.

reactant | sotalol hydrochloride | 200 g | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O.Cl
reactant | potassium carbonate | 500 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 450 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | sotalol | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O | C12H20N2O3S
